US05126336
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(E)-3-(5,6-dihydroxybenzimidazol-1-yl)-1-propen-1-yl]-3-cephem-4-carboxylic acid (Ir)
Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(E)-(5,6-dihydroxybenzimidazol-1-yl)-1-propen-1-yl]-3-cephem-4-carboxylate (XIb) (125 mg was dissolved in trifluoroacetic acid (TFA, 1.2 ml), stirred at room temperature for an hour and diluted with isopropyl ether to precipitate 63 mg of a crude product. The product was chromatographed on a column of Prep C18 (Waters) with water and 5% acetonitrile in water as eluants. The desired fractions, checked by HPLC*, were combined, concentrated to a small volume and freeze-dried to afford 7 mg (13% yield) of the title compound.

reactant | Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(E)-(5,6-dihydroxybenzimidazol-1-yl)-1-propen-1-yl]-3-cephem-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\CN2C=NC3=C2C=C(C(=C3)O)O)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C73H57N7O7S2
solvent | trifluoroacetic acid | 1.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(E)-3-(5,6-dihydroxybenzimidazol-1-yl)-1-propen-1-yl]-3-cephem-4-carboxylic acid | 7 mg, 13% yield | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\CN2C=NC3=C2C=C(C(=C3)O)O)C(=O)O)C1=O)=N/O | C22H19N7O7S2
